simulator lang=spectre
global 0

ahdl_include "./dut/baseband_offset_gain_trim_macro.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=6n width=3n delay=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 96n 0]
Ven (enable 0) vsource type=pwl wave=[0 0 5n 0 5.1n 0.9 64n 0.9 64.1n 0 72n 0 72.1n 0.9 96n 0.9]
Vvin (vin 0) vsource type=pwl wave=[0 0.45 8n 0.30 20n 0.30 20.1n 0.70 38n 0.70 38.1n 0.15 58n 0.15 58.1n 0.82 96n 0.82]
Vg0 (gain_0 0) vsource type=pwl wave=[0 0 18n 0 18.1n 0.9 46n 0.9 46.1n 0 72n 0 72.1n 0.9 96n 0.9]
Vg1 (gain_1 0) vsource type=pwl wave=[0 0 30n 0 30.1n 0.9 60n 0.9 60.1n 0 96n 0]
Vg2 (gain_2 0) vsource type=pwl wave=[0 0 44n 0 44.1n 0.9 96n 0.9]
Vo0 (offset_0 0) vsource type=pwl wave=[0 0.9 24n 0.9 24.1n 0 52n 0 52.1n 0.9 96n 0.9]
Vo1 (offset_1 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 70n 0.9 70.1n 0 96n 0]
Vo2 (offset_2 0) vsource type=pwl wave=[0 0 48n 0 48.1n 0.9 96n 0.9]

XDUT (vin clk rst enable gain_2 gain_1 gain_0 offset_2 offset_1 offset_0 vout residual_metric valid) baseband_offset_gain_trim_macro


simulatorOptions options evas_profile=balanced

tran tran stop=96n maxstep=100p
save vin clk rst enable gain_2 gain_1 gain_0 offset_2 offset_1 offset_0 vout residual_metric valid
